US07420090B2
Stage 2: Preparation of 2-(3,5-dichlorophenoxy)-N-(1-chloro-6-methylhept-4-yn-6-yl) butyramide
1-Chloro-6-methylhept-4-yn-6-yl amine hydrochloride (9.8 g) in N,N-dimethylformamide (250 ml) containing triethylamine (10.4 ml) was stirred at ambient temperature for 10 minutes. The suspension which had formed was treated sequentially with 1-hydroxybenzotriazole (7.59 g), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (10.56 g) then 2-(3,5-dichlorophenoxy)-butyric acid (13.07 g) in N,N-dimethylformamide (50 ml). The mixture was stirred at ambient temperature for 2 hours, stored for 18 hours then poured into water. The product was extracted with ethyl acetate (three times). The extracts were combined, washed with a saturated aqueous solution of sodium hydrogen carbonate and water (three times) and dried over magnesium sulphate. They were then evaporated under reduced pressure to give the required product as a yellow gum (19.1 g) sufficiently pure for further derivatisation. A portion of the gum (0.33 g) was fractionated by chromatography (silica; hexane/diethyl ether, 4:1 by volume) to provide a pure sample of 2-(3,5-dichlorophenoxy)-N-(1-chloro-6-methylhept-4-yn-6-yl) butyramide as a colourless oil, 0.22 g, 1H NMR (CDCl3) δ: 1.00-1.04(3H, t); 1.58(6H, s); 1.90-2.00(4H, m); 2.36-2.40(2H, t); 3.62-3.66(2H, t); 4.36-4.40(1H, t); 6.26(1H, s); 6.84(2H, s); 7.02(1H, s).

reactant | 1-Chloro-6-methylhept-4-yn-6-yl amine hydrochloride | 9.8 g | Cl.ClCCCC#CC(C)(C)N
reactant | 1-hydroxybenzotriazole | 7.59 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 10.56 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-(3,5-dichlorophenoxy)-butyric acid | 13.07 g | ClC=1C=C(OC(C(=O)O)CC)C=C(C1)Cl | C10H10Cl2O3
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 10.4 ml | C(C)N(CC)CC | C6H15N
product | 2-(3,5-dichlorophenoxy)-N-(1-chloro-6-methylhept-4-yn-6-yl) butyramide | 19.1 g | ClC=1C=C(OC(C(=O)NC(C#CCCCCl)(C)C)CC)C=C(C1)Cl | C18H22Cl3NO2
